US07547691B2
A mixture of 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid tri-hydrochloride (425 mg, 0.960 mmol), tert-butylcarbazate (398 mg, 3.01 mmol), diisopropylethylamine (0.500 mL, 2.87 mmol), (benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate (510 mg, 1.15 mmol), and lithium chloride (498 mg, 11.7 mmol) in DMF (6 mL) is heated at 50° C. for 20 hours. After cooling to room temperature, the solvent is removed and the residue is subjected to chromatography on silica gel, eluting with 2.0 M NH3/MeOH) in dichloromethane 0-10%, to give N′-(2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carbonyl)-hydrazinecarboxylic acid tert-butyl ester (441 mg, 82% yield).

reactant | 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid tri-hydrochloride | 0.960 mmol, 425 mg | Cl.Cl.Cl.ClC=1C(=NC(=NC1)NCCCN1CCN(CC1)C)C1=CC2=C(S1)C=CC=C2C(=O)O
reactant | tert-butylcarbazate | 3.01 mmol, 398 mg | C(C)(C)(C)OC(NN)=O | C5H12N2O2
reactant | diisopropylethylamine | 2.87 mmol, 0.500 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate | 1.15 mmol, 510 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | lithium chloride | 11.7 mmol, 498 mg | [Cl-].[Li+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | N′-(2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carbonyl)-hydrazinecarboxylic acid tert-butyl ester | 441 mg, 82% yield | C(C)(C)(C)OC(=O)NNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2CCN(CC2)C | C26H34ClN7O3S
